data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,3674,"CC(=O)[O-:1].CC(O)(CCC(=O)C1=CC=CC=C1)[NH+:2](C1CCCCC1N)[H:3].CO|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8917,"C1CO[C:1](=[OH+:2])C1.[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,409,"C=[C:1](C)[Mg:2][Br].CCO[C:3](C)=[O:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,5456,"CC(C)[O-].C[O][Al-:1]([O]C(C)C)([O]C(C)C)[OH+:2]C(C)C|((1, 2), 2)"
train,pmechdb_split_0,0,6959,"C[O+:1](C12OCCC1(C1=CC=CC=C1)C1=C(C=CC=C1)O2)[H:2].[Br-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3807,"CCN1CCC23C4=C5C=CC(OC)=C4OC2[C:1](=[OH+:2])[CH:3]([H:4])CC3C1C5.CC[N:5]1CCC23C4=C5C=CC(OC)=C4OC2C(=O)CCC3C1C5.CO.COC=[O+]C|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,5643,"C=C1CCC23CC1C(O[Si-:1](CC)(CC)(CC)[O:2]S(=O)(=O)C(F)(F)F)=CC2CCC3C.CC[NH+](CC)CC|((1, 2), 2)"
train,pmechdb_split_0,0,2494,"[H:1][AlH3-:2].[O-]CC=C[CH:3]=[O:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,6361,"CC[O+]([B-](F)(F)F)[Si-:1](C)(C)(C)[CH2:2][C+:3]=C(C1=CC=CC=C1)C1CCC(=O)N1|((1, 2), 3)"
train,pmechdb_split_0,0,10019,"CCCCC(=O)C1=C(O)C=CC(Br)=C1.O=C(C(F)(F)F)[O:1][H:2].O=[N+]([O-])C1=CC=C(C([NH+]2CCCC2C2=NN=NN2)[O-:3])C=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2585,"[CH:1](=[SH+:2])[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5495,"CCCCC(C(OC1=CC=CC=C1)C(=O)[O-])[OH:1].CCOC(=O)NN(C(=O)OCC)[P+:2](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1|(1, 2)"
train,pmechdb_split_0,0,3710,"C1=CN=CC(C2=[N:1]C2)=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.CC[OH+:2][H:3].[Cl-]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4733,"CC1=CC=C(S(=O)(=O)[O-])C=C1.CC1=CC=CC=C1.FC1=CC=C(Br)C([CH:1]=[OH+:2])=C1.OCC[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7683,"CC1(C)CC[CH:1]=[C:2]1C.[H:3][Cl:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,6784,"CCCC[C:1](C1=C(O)C=CC(Br)=C1)([N:2]1CCCC1C1=NN=NN1)[OH2+:3].O=C([O-])C(F)(F)F.O=CC1=CC=C([N+](=O)[O-])C=C1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,10021,"CCCC=C(C1=C(O)C=CC(Br)=C1)[O-:1].O=C([O-])C(F)(F)F.O=[N+]([O-])C1=CC=C(C=[N+]2CCCC2C2=NN=NN2)C=C1.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9623,"C=C[C:1](SCC)([O-:2])[O:3]C(C)=O|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,37,"CCC(C)I.CCCCCCC#C[CH:1]1[CH:2]([Li:3])CCC[O:4]1|((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,6481,"CCOC(=O)N[N:1]([C:2](OCC)=[OH+:3])[P:4](OC(C#N)C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C([O-])CC1=CC=C([N+](=O)[O-])C=C1|((4, 1), 2);((2, 3), 3)"
train,pmechdb_split_0,0,1497,"C(C1=CC=CC=C1)#[C:1][H:2].C[O:3][K]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,10071,"CC(C)=C[CH2+:1].CC1=CC=C(S(=O)(=O)[O-])C=C1.CCCCCC1=CC([OH:2])=CC(O)=C1.O|(2, 1)"
train,pmechdb_split_0,0,1720,"COCC1CCCN1[NH+:1](C1(O)C=C(C)CCC1)[H:2].COCC1CCCN1[NH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7123,"C=C(C1=CC=CC=C1)[OH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8602,"CC(=O)OC(C)([O-])[NH2+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7158,"N#CCC([NH+]=C(N)N)[O-:1].N#[C:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5557,"C1=CC2=C(C=C1)C(=[O:1])CN2.CC(=O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1004,"CC(=O)CC(O)=[O+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6672,"CC(C)[N-:1]C(C)C.C[C:2](Br)([H:3])[CH:4](C)[Br:5]|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,2349,"C1=CC=C([CH2:1][Br:2])C=C1.C[N:3](C)N|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2810,"OCC1CCC[CH:1]([OH2+:2])[O:3]1.[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3601,"CCO.CCOP(=O)(OCC)C(C)C(=O)CC1CCCC1=[O+:1][H:2].OCCO.[Cl-].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6889,"O=C1CC2C(O1)C(I)CC2[O:1][H:2].[Na][OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,650,"C[B-](C)(C)[O+:1]=[CH2:2].C[Si](C)(C)C[CH:3]=[CH2:4]|((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,4912,"Cl[P:1](Cl)Cl.[Li+:2]|(1, 2)"
train,pmechdb_split_0,0,2941,"C=CO[C+:1]1C=C[C:2](C(C)OC2=CC=CC=C2)([H:3])[CH:4]=[CH:5]1.[F-:6]|(6, 3);((3, 2), 4);((4, 5), 1)"
train,pmechdb_split_0,0,10309,"C[S+:1](C)(=O)[CH2:2]C[CH:3]=[CH:4][O-:5]|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,5811,"Br[C-:1](Br)Br.Br[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.C1=C(C[O:2][H:3])C=C2OCOC2=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2745,"C1=CC=C([C:1](=[CH2:2])[O-:3])C=C1.C1=CC=C([CH:4]=[O:5])C=C1.O.[Na+]|(3, 1);((1, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,9214,"C1CCC(C[O:1][H:2])CC1.[H:3][Na:4]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,1814,"O=[N+]([O-])[O:1][H:2].O=[N+]([O-])[OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8341,"CCOC(=O)CCC[CH:1]([H:2])[C:3](OCC)=[O:4].CC[O-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,7567,"CC(=O)O.CC1(C)C2CC([NH2:1])=C(CC([N+]3=CC=CC=C3)[C:2](C3=C(F)C=CC=C3)=[O:3])C1C2.O.[I-]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3165,"CC[NH2:1].O=CCCC(=O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9380,"C1=CC=C([CH:1](C2=CC=CC=C2)[OH2+:2])C=C1|((1, 2), 2)"
